US05665726
8-Chloro-11((Z)-2,5-dimethyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine
A mixture of 8-chloro-11-(1,2,6-trimethyl-4-piperidinyl)-6,11-dihydro-5H-benzo[5,6]-cyclohepta[1,2-b]pyridin-11-ol (5.0 g, 14.1 mmol) in 85% H2SO4 (100 mL) was heated in an oil bath (60°-65° C.) for 3 hours. The reaction was cooled and diluted with water followed by basification with 25% aq. NaOH solution. The crude product was extracted with CH2Cl2, washed with brine, dried (Na2SO4), filtered and solvent removed. Purification and separation of the E and Z isomers via chromatography (2%→5% MeOH saturated with NH3 in CH2Cl2) gave the title compound (300 mg, 6%).

reactant | 8-chloro-11-(1,2,6-trimethyl-4-piperidinyl)-6,11-dihydro-5H-benzo[5,6]-cyclohepta[1,2-b]pyridin-11-ol | 14.1 mmol, 5.0 g | ClC=1C=CC2=C(CCC=3C(=NC=CC3)C2(O)C2CC(N(C(C2)C)C)C)C1 | C22H27ClN2O
reactant | NaOH | [OH-].[Na+]
solvent | H2SO4 | 100 mL | OS(=O)(=O)O | H2O4S
solvent | water | O | H2O
product | 8-Chloro-11((Z)-2,5-dimethyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine | 300 mg, 6% | ClC=1C=CC/2=C(CCC=3C(=NC=CC3)\C2=C/2\CC(NCC2C)C)C1 | C21H23ClN2
